US07125865B2
Preparation of 1-(3-{[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]oxy}propyl)imidazolidin-2-one.
To a DMF solution (5 mL) of 7-propyl-3-(trifluoromethyl)-6-(3-bromopropyloxy)-1,2-benzisoxazole as prepared in Example 7 (322 mg, 0.88 mmol), was added 2-imidazolidinone (320 mg, 3.52 mmol) and CsCO3 (320 mg, 0.97 mmol) then stirred at room temperature overnight. After aqueous work-up and silica gel chromatography (hexanes: 70% ethyl acetate), the title compound was obtained.

reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 7-propyl-3-(trifluoromethyl)-6-(3-bromopropyloxy)-1,2-benzisoxazole | C(CC)C1=C(C=CC=2C(=NOC21)C(F)(F)F)OCCCBr | C14H15BrF3NO2
reactant | 2-imidazolidinone | 3.52 mmol, 320 mg | N1C(NCC1)=O | C3H6N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-{[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]oxy}propyl)imidazolidin-2-one | C(CC)C1=C(C=CC=2C(=NOC21)C(F)(F)F)OCCCN2C(NCC2)=O | C17H20F3N3O3
